US06022379
According to the procedure described in the article Chemistry Express 1990, Vol. 5, No. 10, pages 749-752, the disclosure of which is specifically incorporated by reference herein, 3.16 millimol of 1,4-naphthoquinone were stirred with 25 millimol of N-methylpyrrole and 3.16 millimol of copper acetate in 50 ml of acetic acid in a round-bottomed flask at room temperature for 1 hour. The reaction mixture was diluted with 300 ml of dichloromethane and the resulting mixture was then poured into a large volume of water (300 ml). The organic phase was then separated out and washed four times with 100 ml of water and finally with saturated aqueous NaCl solution. The resulting organic phase was dried over Na2SO4 and then concentrated under vacuum. The product 2-(1-methyl-1H-pyrrol-2-yl)-[1,4]-naphthoquinone was thus isolated in a yield of 79% after purification by chromatography on a column of silica.

reactant | 1,4-naphthoquinone | 3.16 millimol | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | N-methylpyrrole | 25 millimol | CN1C=CC=C1 | C5H7N
reactant | water | 300 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | copper acetate | 3.16 millimol | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-(1-methyl-1H-pyrrol-2-yl)-[1,4]-naphthoquinone | yield of 79% | CN1C(=CC=C1)C=1C(C2=CC=CC=C2C(C1)=O)=O | C15H11NO2
